US04435381
n-Dodecyl thiouronium bromide (about 0.0495 mole) and hydrogen phosphonic acid (about 0.15 mole) were mixed and heated at about 90° C. to remove HBr. Water was added and the mixture was filtered (a nitrogen stream was used to remove oxygen). Approximately 12.4 g of the desired n-dodecyl thiouronium hydrogen phosphonate was isolated, m.p. 119°-122° C. The compound was re-precipitated from ethanol and water. The IR data were consistent with HPO-3 as the counterion, i.e., strong bands near 1195 cm-1, 1145 cm-1, 1097 cm-1, 991 cm-1 and 927 cm-1. A sharp band was also observed at 2380 cm-1 which is characteristic of the P-H linkage.

reactant | n-Dodecyl thiouronium bromide | about 0.0495 mole | [Br-].C(CCCCCCCCCCC)[NH+]=C(S)N
reactant | hydrogen phosphonic acid | about 0.15 mole | P(O)(O)=O | H3O3P
product | n-dodecyl thiouronium hydrogen phosphonate | 12.4 g | P(O)([O-])=O.C(CCCCCCCCCCC)[NH+]=C(S)N | InChI=1S/C13H28N2S.H3O3P/c1-2-3-4-5-6-7-8-9-10-11-12-15-13(14)16;1-4(2)3/h2-12H2,1H3,(H3,14,15,16);4H,(H2,1,2,3)
